US07745641B2
In a similar manner to Step 4 of Example 16, 3-hydroxy-7-bromo-2-(1-methyl-1-phenylethyl)isoindolinone (3.00 mg, 0.867 mmol) was dissolved in nitromethane (12 mL), and the solution was treated with trifluoroacetic acid (0.668 mL, 8.67 mmol) and triethylsilane (0.277 mL, 1.73 mmol), followed by purification by preparative thin-layer chromatography (chloroform/methanol=12/1) to obtain 7-bromoisoindolinone (140 mg, yield 76%).

reactant | 3-hydroxy-7-bromo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.867 mmol, 3.00 mg | OC1N(C(C2=C(C=CC=C12)Br)=O)C(C)(C1=CC=CC=C1)C | C17H16BrNO2
reactant | trifluoroacetic acid | 8.67 mmol, 0.668 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.73 mmol, 0.277 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | nitromethane | 12 mL | [N+](=O)([O-])C | CH3NO2
product | 7-bromoisoindolinone | 140 mg, yield 76% | BrC=1C=CC=C2CNC(C12)=O | C8H6BrNO
